US04182881
B. 4-n-Butoxybenzamide
Chilled to 20°, a solution of 84 g (0.39 mole) of a solution of 4-n-butoxybenzoyl chloride in 700 ml of AR chloroform, then saturated with anhydrous ammonia. The mixture was stirred for 20 min. to 0°, then the white precipitate collected, washed with cold water and oven-dried to 60° to give 76 g, m.p. shrinks 160°, melts 162°-164°.

reactant | 4-n-butoxybenzoyl chloride | C(CCC)OC1=CC=C(C(=O)Cl)C=C1 | C11H13ClO2
reactant | ammonia | N | H3N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-n-Butoxybenzamide | C(CCC)OC1=CC=C(C(=O)N)C=C1 | C11H15NO2
